US04386091
A mixture of 4-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-2,4-dihydro-3H-1,2,4-triazol-3-one hydrochloride (10.8 g., 0.028 mole), phenoxyethyl bromide (5.83 g., 0.028 mole), potassium carbonate (11.6 g., 0.084 mole) and a trace of potassium iodide in 100 ml. of acetonitrile is refluxed for a 66 hr. period. The hot reaction mixture is filtered, the filtrate concentrated under reduced pressure and residual material taken up in chloroform. The chloroform solution is washed with water, dried over magnesium sulfate, and concentrated under reduced pressure to provide 13.2 g. of the free base product, 4-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-2,4-dihydro-2-(2-phenoxyethyl)-3H-1,2,4-triazol-3-one. The free base is converted to the hydrochloride salt in ethanol with ethanolic hydrogen chloride and crystallized from ethanol to afford a 71% yield of analytically pure 4-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl- 2,4-dihydro-2-(2-phenoxyethyl)-3H-1,2,4-triazol-3-one hydrochloride, m.p. 175°-177° C.

reactant | 4-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-2,4-dihydro-3H-1,2,4-triazol-3-one hydrochloride | 0.028 mole, 10.8 g | Cl.ClC=1C=C(C=CC1)N1CCN(CC1)CCCN1C(NN=C1CC)=O
reactant | phenoxyethyl bromide | 0.028 mole, 5.83 g | O(C1=CC=CC=C1)CCBr | C8H9BrO
reactant | potassium carbonate | 0.084 mole, 11.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | 4-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-2,4-dihydro-2-(2-phenoxyethyl)-3H-1,2,4-triazol-3-one | ClC=1C=C(C=CC1)N1CCN(CC1)CCCN1C(N(N=C1CC)CCOC1=CC=CC=C1)=O | C25H32ClN5O2
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl- 2,4-dihydro-2-(2-phenoxyethyl)-3H-1,2,4-triazol-3-one hydrochloride | 71% yield | Cl.ClC=1C=C(C=CC1)N1CCN(CC1)CCCN1C(N(N=C1CC)CCOC1=CC=CC=C1)=O | InChI=1S/C25H32ClN5O2.ClH/c1-2-24-27-31(18-19-33-23-10-4-3-5-11-23)25(32)30(24)13-7-12-28-14-16-29(17-15-28)22-9-6-8-21(26)20-22;/h3-6,8-11,20H,2,7,12-19H2,1H3;1H
